US04902335
6-fluoro-2(3H)-benzothiazolone (82.9 g) was nitrated in conc. sulfuric acid (800 g) with a 98% nitric acid (5% excess of the theoretical amount) at a temperature of 0° to 5° C. under stirring for 1.5 hours. The reaction mixture was poured into ice water and filtered. The solid material separated by the filtration was dried, and recrystallized from acetone, so that 6-fluoro-5-nitro-2(3H)-benzothiazolone (67.7 g) was obtained. The purity of this compound was 92% (this purity was determined by HPLC). The whole amount of this compound was reduced with iron powder to obtain 5-amino-6-fluoro-2(3H)-benzothiazolone (52.4 g). 4 g of the amino compound were subjected to an alkylation operation with the aid of 3-chloromethyl-5-methyl-1,2,4-oxadiazole (2.9 g), in acetonitrile (100 ml) in the presence of potassium carbonate (3 g) as the dehydrochlorinating agent. This operation was carried out under reflux for 2 hours, so that the aimed compound, i.e. 5-amino-6-fluoro-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2(3H)-benzothiazolone (5.3 g) was obtained. m.p. 156°-157° C.

reactant | 6-fluoro-2(3H)-benzothiazolone | 82.9 g | FC1=CC2=C(NC(S2)=O)C=C1 | C7H4FNOS
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 800 g | S(O)(O)(=O)=O | H2O4S
catalyst | iron | [Fe] | Fe
product | 5-amino-6-fluoro-2(3H)-benzothiazolone | 52.4 g | NC=1C(=CC2=C(NC(S2)=O)C1)F | C7H5FN2OS
